US04326881
Preparation of 1-acetyl-4-chloro-3-(2,3-dichlorophenyl)pyrol (Compound No. 2)
The mixture of 0.3 g of 4-chloro-3-(2,3-dichlorophenyl)pyrol and 0.6 g of N-acetylimidazole was fused for one hour at 140° C. in a stream of argon. The resulting reaction mixture was purified by thin-layer chromatography to obtain 0.2 g of the desired product (colorless or slightly colored crystal, m.p. 97° C.).

reactant | 4-chloro-3-(2,3-dichlorophenyl)pyrol | 0.3 g | ClC=1C(=CNC1)C1=C(C(=CC=C1)Cl)Cl | C10H6Cl3N
reactant | N-acetylimidazole | 0.6 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
product | 1-acetyl-4-chloro-3-(2,3-dichlorophenyl)pyrol | 0.2 g | C(C)(=O)N1C=C(C(=C1)Cl)C1=C(C(=CC=C1)Cl)Cl | C12H8Cl3NO
